US07981903B2
A mixture of p-anisidine (10 g, 81 mmol, Aldrich) and potassium carbonate (13.5 g, 97.5 mmol, Aldrich) in acetone (125 mL) was cooled to 0° C. and treated with dimethyl acryloyl chloride (10.2 mL, 89.3 mmol). The mixture was allowed to warm to room temperature overnight. The reaction was diluted with water and extracted with dichloromethane. The organic layer was separated, dried over magnesium sulfate, filtered, concentrated, and purified by chromatography on SiO2 (0 to 100% ethyl acetate/dichloromethane) to give 3-methyl-N[4-(methyloxy)phenyl]-2-butenamide (12.4 g, 67%) as a light violet solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.84 (s, 3 H), 2.13 (s, 3 H), 3.71 (s, 3 H), 5.82 (s, 1 H), 6.85 (d, J=9.0 Hz, 2 H), 7.52 (d, J=9.0 Hz, 2 H), 9.67 (s, 1 H); ESIMS (M+H)+=206.

reactant | p-anisidine | 81 mmol, 10 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | potassium carbonate | 97.5 mmol, 13.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl acryloyl chloride | 89.3 mmol, 10.2 mL | CC(=CC(=O)Cl)C | C5H7ClO
solvent | acetone | 125 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 3-methyl-N[4-(methyloxy)phenyl]-2-butenamide | 12.4 g, 67% | CC(=CC(=O)NC1=CC=C(C=C1)OC)C | C12H15NO2
